US07842713B2
7-(4-(Methylsulfonyl)phenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo-[b]-thiophene-5-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 7-hydroxybenzo[b]thiophene-5-carboxylate (0.275 g, 1.24 mmol) and 1-fluoro-4-(methylsulfonyl)benzene (0.22 g, 1.26 mmol) in DMF (5 mL). The mixture was stirred at 120° C. for 8 hours and then cooled to room temperature. 1-Methyl-1H-pyrazol-3-amine (0.21 g, 2.17 mmol) and then HATU (0.71 g, 1.87 mmol) were added. The reaction mixture was stirred at 50° C. for one hour and then filtered. Purification by HPLC gave a solid (6 mg, 1% yield) as expected product. 1H NMR (400 MHz, CD3OD) δ 8.38 (s, 1 H) 7.96-7.99 (m, 2 H) 7.73-7.76 (m, 1 H) 7.58-7.61 (m, 2 H) 7.53 (s, 1 H) 7.23-7.28 (m, 2 H) 6.60 (s, 1 H) 3.84 (s, 3 H) 3.13 (s, 3 H). LCMS for C20H17N3O4S2 m/z 428.10 (M+H+).

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 7-hydroxybenzo[b]thiophene-5-carboxylate | 1.24 mmol, 0.275 g | OC1=CC(=CC2=C1SC=C2)C(=O)OCC | C11H10O3S
reactant | 1-fluoro-4-(methylsulfonyl)benzene | 1.26 mmol, 0.22 g | FC1=CC=C(C=C1)S(=O)(=O)C | C7H7FO2S
reactant | 1-Methyl-1H-pyrazol-3-amine | 2.17 mmol, 0.21 g | CN1N=C(C=C1)N | C4H7N3
reactant | HATU | 1.87 mmol, 0.71 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(4-(Methylsulfonyl)phenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo-[b]-thiophene-5-carboxamide | CS(=O)(=O)C1=CC=C(OC2=CC(=CC3=C2SC=C3)C(=O)NC3=NN(C=C3)C)C=C1 | C20H17N3O4S2
